### PR TITLE
Added FinWeak (isomorphic to Fin)

### PR DESCRIPTION
**Pull request by guilhermehas**
I created a new data structure `FinWeak` and I proved that it is isomorphic to Fin.

```agda
data FinPure : ℕ → Type where
  zero : FinPure 1
  suc : FinPure n → FinPure (suc n)

data Fin : ℕ → Type where
  pure : FinPure n → Fin n
  weaken : Fin n → Fin (suc n)
```

It can be useful if it is necessary to know how far `Fin n` is from n.

### CODE REVIEW

File: Cubical/Data/FinWeak/Base.agda [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+
+open import Cubical.Relation.Nullary
+
+private variable
+  n : ℕ
+
+data FinPure : ℕ → Type where
+  zero : FinPure 1
+  suc  : FinPure n → FinPure (suc n)
+
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Base.agda:18]: The definition of ```FinPure``` looks almost exactly like ```Fin``` in ```Cubical.Data.FinData.Base```:
```agda
data Fin : ℕ → Type₀ where
  zero : {n : ℕ} → Fin (suc n)
  suc  : {n : ℕ} (i : Fin n) → Fin (suc n)
```
A comment describing the crucial difference would help a reader here. It would also be good to have some comment on use cases or the meaning of ```FinPure``` and the hint that it turns out to be a proposition.

File: Cubical/Data/FinWeak/Base.agda [hunk 2]
```diff
@@ -0,0 +1,57 @@
...
+data Fin : ℕ → Type where
+  pure   : FinPure n → Fin n
+  weaken : Fin n     → Fin (suc n)
+
+-- useful patterns
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Base.agda:23]: I think this comment can be removed, since I would assume that only useful patterns are introduced anyway.

File: Cubical/Data/FinWeak/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+weakeningFinData→FinWeak : (p : FD.Fin n) → FinData→FinWeak (FD.weakenFin p) ≡ weaken (FinData→FinWeak p)
+weakeningFinData→FinWeak FD.zero    = refl
+weakeningFinData→FinWeak (FD.suc p) = cong sucFin (weakeningFinData→FinWeak p)
+
+FinData→FinWeak→FinData : (p : Fin n) → FinData→FinWeak (FinWeak→FinData p) ≡ p
+FinData→FinWeak→FinData (pure p)   = FinData→FinWeak→FinPure p
+FinData→FinWeak→FinData (weaken p) =
+  FinData→FinWeak (FD.weakenFin (FinWeak→FinData p)) ≡⟨ weakeningFinData→FinWeak ((FinWeak→FinData p)) ⟩
+  weaken (FinData→FinWeak (FinWeak→FinData p))       ≡⟨ cong weaken (FinData→FinWeak→FinData p)        ⟩
+  weaken p ∎
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Properties.agda:58]: Please add the iso you constructed in this file in bundle form, i.e. something like
```agda
FinData→FinWeakIso : Iso (Fin n) (FD.Fin n)
```

File: Cubical/Data/FinWeak/Properties.agda [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+FinData→FinWeak {suc (suc n)} FD.zero = weaken (FinData→FinWeak FD.zero)
+FinData→FinWeak (FD.suc p) = sucFin (FinData→FinWeak p)
+
+finWeakSuc : (p : Fin n) → FinWeak→FinData (sucFin p) ≡ FD.suc (FinWeak→FinData p)
+finWeakSuc (pure p)   = refl
+finWeakSuc (weaken p) = cong FD.weakenFin (finWeakSuc p)
+
+FinWeak→FinData→FinWeak : (p : FD.Fin n) → FinWeak→FinData (FinData→FinWeak p) ≡ p
+FinWeak→FinData→FinWeak {one} FD.zero = refl
+FinWeak→FinData→FinWeak {suc (suc n)} FD.zero = cong FD.weakenFin (FinWeak→FinData→FinWeak FD.zero)
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Properties.agda:39]: Same here: ```{suc (suc _)}```.

File: Cubical/Data/FinWeak/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,58 @@
...
+FinPure→FinData zero    = FD.zero
+FinPure→FinData (suc p) = FD.suc (FinPure→FinData p)
+
+FinWeak→FinData : Fin n → FD.Fin n
+FinWeak→FinData (pure p)   = FinPure→FinData p
+FinWeak→FinData (weaken p) = FD.weakenFin (FinWeak→FinData p)
+
+FinData→FinWeak : FD.Fin n → Fin n
+FinData→FinWeak {one} FD.zero = pure zero
+FinData→FinWeak {suc (suc n)} FD.zero = weaken (FinData→FinWeak FD.zero)
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Properties.agda:30]: You might want to write ```{suc (suc _)}``` here, to make it clear that the variable is not used and avoid confusion with the n from the signature of the function.

**Review by felixwellen — CHANGES_REQUESTED** [review]
Looks good!
I only have minor comments.

File: Cubical/Data/FinWeak/Base.agda [hunk 6]
```diff
@@ -0,0 +1,59 @@
...
+
+open import Cubical.Data.Bool
+open import Cubical.Data.Nat using (ℕ; zero; suc)
+
+open import Cubical.Relation.Nullary
+
+private variable
+  n : ℕ
+
+-- The only difference between FinPure and FinData is that
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Base.agda:15]: I don't believe that helps to unconfuse a reader. I guess what you are trying to say is:
"The difference between FinPure and Fin in Cubical.Data.FinData is that we only 
have ```zero : FinPure 1``` and not ```zero : Fin n```"
But that is a bit misleading, since one could believe after the comment, that this is the only interesting difference and FinPure is some alternative to Fin from FinData. Maybe you could just clarify a bit and add, that as a consequence, FinPure will be a proposition?
Also, please comment on applications of this and why (or in what situation) one would use the Fin here instead of the Fin from FinData.

File: Cubical/Data/FinWeak/Properties.agda [hunk 7]
```diff
@@ -0,0 +1,70 @@
...
+weakeningFinData→FinWeak (FD.suc p) = cong sucFin (weakeningFinData→FinWeak p)
+
+FinData→FinWeak→FinData : (p : Fin n) → FinData→FinWeak (FinWeak→FinData p) ≡ p
+FinData→FinWeak→FinData (pure p)   = FinData→FinWeak→FinPure p
+FinData→FinWeak→FinData (weaken p) =
+  FinData→FinWeak (FD.weakenFin (FinWeak→FinData p)) ≡⟨ weakeningFinData→FinWeak ((FinWeak→FinData p)) ⟩
+  weaken (FinData→FinWeak (FinWeak→FinData p))       ≡⟨ cong weaken (FinData→FinWeak→FinData p)        ⟩
+  weaken p ∎
+
+FinDataIsoFinWeak : Iso (Fin n) (FD.Fin n)
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Properties.agda:63]: Should be called ```FinWeakFinDataIso``` for consistency.

Comment (felixwellen) [reply Cubical/Data/FinWeak/Properties.agda:63]: You can also have the iso in the middle, but source and target should be in the right order.

File: Cubical/Data/FinWeak/Properties.agda [hunk 8]
```diff
@@ -0,0 +1,70 @@
...
+fun FinDataIsoFinWeak = FinWeak→FinData
+inv FinDataIsoFinWeak = FinData→FinWeak
+rightInv FinDataIsoFinWeak = FinWeak→FinData→FinWeak
+leftInv FinDataIsoFinWeak = FinData→FinWeak→FinData
+
+FinData≡FinWeak : Fin n ≡ FD.Fin n
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Properties.agda:69]: Same here.

**Review by felixwellen — CHANGES_REQUESTED** [review]

File: Cubical/Data/FinWeak/Base.agda [hunk 9]
```diff
@@ -0,0 +1,71 @@
...
+weaken p ≡ᵇ weaken q = p ≡ᵇ q
+
+predFinPure : FinPure (suc (suc n)) → FinPure (suc n)
+predFinPure (suc p) = p
+
+-- A simple example of how this data structure can be useful
+-- This function can calculate the successor of Fin n in Fin n
+-- In pure case, we already know that Fin n is `n - 1`. so it is already the maximum
+-- In weaken case, it is less than n - 1, so it is possible to calculate the successor
+private
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Base.agda:68]: Maybe we misunderstood each other - why don't you remove that 'private'?

File: Cubical/Data/FinWeak/Base.agda [hunk 10]
```diff
@@ -0,0 +1,71 @@
...
+open import Cubical.Data.Bool
+open import Cubical.Data.Maybe
+open import Cubical.Data.Nat using (ℕ; zero; suc)
+
+open import Cubical.Relation.Nullary
+
+private variable
+  n : ℕ
+
+-- FinPure is a proposition and it means n - 1
```
Comment (felixwellen) [inline Cubical/Data/FinWeak/Base.agda:16]: Maybe clearer: 'k : FinPure n is a proposition that means k is n - 1

**Review by felixwellen — CHANGES_REQUESTED** [review]
Now it is clear to me, how this can be useful - many thanks!

File: Cubical/Data/FinWeak/Base.agda (hunk 9 above)
Comment (felixwellen) [reply Cubical/Data/FinWeak/Base.agda:76]: Did you do something to address this?

Comment (felixwellen) [reply Cubical/Data/FinWeak/Base.agda]: Ok - looks good now!

**Review by felixwellen — APPROVED** [review]
Ready to be merged from my point of view.
